US09193707B2
3. Synthesis of 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol
Into a 250-mL round-bottom flask, was placed a solution of 2-amino-5-fluorobenzamide (13.02 g, 84.47 mmol, 1.00 equiv) in dimethylacetamide (200 mL), 3,4,5-trimethoxybenzaldehyde (17.97 g, 91.59 mmol, 1.08 equiv) and NaHSO3 (8.85 g). The resulting solution was stirred overnight at 140° C. in an oil bath. The reaction was then quenched by the addition of 400 mL of water/ice. The solids were collected by filtration. This resulted in 28 g (crude) of 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol as a brown solid. MS (ESI) m/z 331 ([M+H]+).

reactant | 2-amino-5-fluorobenzamide | 84.47 mmol, 13.02 g, 1.00 equiv | NC1=C(C(=O)N)C=C(C=C1)F | C7H7FN2O
reactant | 3,4,5-trimethoxybenzaldehyde | 91.59 mmol, 17.97 g, 1.08 equiv | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | NaHSO3 | 8.85 g | OS(=O)[O-].[Na+]
solvent | dimethylacetamide | 200 mL | CC(=O)N(C)C | C4H9NO
product | 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol | FC=1C=C2C(=NC(=NC2=CC1)C1=CC(=C(C(=C1)OC)OC)OC)O | C17H15FN2O4
